US05252601
2-Carboxy-2-[(acetylthio)methyl]-1,2,3,4-tetrahydronaphthalene
Dissolve 2-carboxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene (5.36 g, 20.0 mmol) in trifluoroacetic acid (40 mL) and add mercuric acetate (6.36 g, 20.0 mmol). Stir at ambient temperature under an atmosphere of argon for 4.5 hours, then treat with gaseous hydrogen sulfide. Remove the resulting black solid by filtration and dilute the filtrate to 100 mL with methylene chloride. Wash with water, then with brine and dry (MgSO4). Evaporate the solvent in vacuo to a residue. Mix the residue with sulfuric acid (0.3 mL of 10% solution in acetic acid) and add acetic anhydride (2.04 g, 20.0 mmol). Stir the mixture for 2 hours under an atmosphere of argon at ambient temperature, then dilute with 100 mL ethyl ether. Wash with water, brine then dry (MgSO4). Concentrate the filtrate in vacuo to give the title compound.

reactant | 2-carboxy-2-(t-butyl)thiomethyl-1,2,3,4-tetrahydronaphthalene | 20.0 mmol, 5.36 g | C(=O)(O)C1(CC2=CC=CC=C2CC1)CSC(C)(C)C | C16H22O2S
reactant | hydrogen sulfide | S | H2S
reactant | acetic anhydride | 20.0 mmol, 2.04 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-Carboxy-2-[(acetylthio)methyl]-1,2,3,4-tetrahydronaphthalene | C(=O)(O)C1(CC2=CC=CC=C2CC1)CSC(C)=O | C14H16O3S
